US07973051B2
N-[(5-Bromo-1,3-thiazol-2-yl)carbamoyl]-5-methyl-1-benzothiophene-2-sulfonamide
To a suspension of 5-methyl-benzo[b]thiophenesulfonyl chloride (Maybridge, CAS: 90273-30-6, 0.37 g) in acetonitrile (5.0 mL) were added sodium cyanate (0.163 g) in one portion and pyridine (0.60 mL). The reaction mixture was stirred at rt for 3 h, then 2-amino-5-bromothiazole hydrobromide (0.286 g) was added in one portion. The mixture was stirred at rt for 4 h and quenched with 70% acetic acid (2.4 mL) and water (4.0 mL). The suspension was filtered, washed with waterlethanol and water, dried over P2O5 under high vacuum to obtain the desired compound (0.372 g) as a creamy solid. MS (ISN): m/e 430.1, 432.0 (M−H)−

reactant | 5-methyl-benzo[b]thiophenesulfonyl chloride | 0.37 g | CC1=CC2=C(SC(=C2)S(=O)(=O)Cl)C=C1 | C9H7ClO2S2
reactant | sodium cyanate | 0.163 g | [O-]C#N.[Na+]
reactant | pyridine | 0.60 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-5-bromothiazole hydrobromide | 0.286 g | Br.NC=1SC(=CN1)Br
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | N-[(5-Bromo-1,3-thiazol-2-yl)carbamoyl]-5-methyl-1-benzothiophene-2-sulfonamide | 0.372 g | BrC1=CN=C(S1)NC(=O)NS(=O)(=O)C=1SC2=C(C1)C=C(C=C2)C | C13H10BrN3O3S3
